US08227472B2
6,6-Dimethyl-3-[4-(4-methyl-piperazin-1-yl)-benzoylamino]-2,6-dihydro-4H-pyrrolo[3,4-c]pyrazole-5-carboxylic Acid (2,6-dichloro-phenyl)-amide (Comp. 1, A1-Z-B1)
5-(2,6-Dichloro-phenylcarbamoyl)-6,6-dimethyl-3-[4-(4-methyl-piperazin-1-yl)-benzoylamino]-5,6-dihydro-4H-pyrrolo[3,4-c]pyrazole-2-carboxylic acid ethyl ester (0.6 g, 0.97 mmol) was dissolved in methanol (20 mL), treated with TEA (0.67 mL, 4.85 mmol, 5 eq) and stirred overnight at room temperature. After evaporation of the solvent, the solid was treated with diethyl ether and filtered to afford 0.28 g (yield 76%) of the title compound.

reactant | 5-(2,6-Dichloro-phenylcarbamoyl)-6,6-dimethyl-3-[4-(4-methyl-piperazin-1-yl)-benzoylamino]-5,6-dihydro-4H-pyrrolo[3,4-c]pyrazole-2-carboxylic acid ethyl ester | 0.97 mmol, 0.6 g | C(C)OC(=O)N1N=C2C(=C1NC(C1=CC=C(C=C1)N1CCN(CC1)C)=O)CN(C2(C)C)C(NC2=C(C=CC=C2Cl)Cl)=O | C29H33Cl2N7O4
solvent | methanol | 20 mL | CO | CH4O
product | 6,6-Dimethyl-3-[4-(4-methyl-piperazin-1-yl)-benzoylamino]-2,6-dihydro-4H-pyrrolo[3,4-c]pyrazole-5-carboxylic Acid (2,6-dichloro-phenyl)-amide | 0.28 g, yield 76% | ClC1=C(C(=CC=C1)Cl)NC(=O)N1C(C2=NNC(=C2C1)NC(C1=CC=C(C=C1)N1CCN(CC1)C)=O)(C)C | C26H29Cl2N7O2
